US04863919
N-(1-Azabicyclo[2.2.2]oct-3-yl)-3-fluorobenzamide, Monohydrochloride.
In a closed system, a solution of 3-fluorobenzoyl chloride (7.93 g, 0.050 mole) in 30 ml ether was added dropwise to a stirred solution of 3-aminoquinuclidine (6.3 g, 0.050 mole) in 100 ml ether. After the addition was completed, the mixture was stirred at ambient temperature for 16 hr. The solid hydrochloride salt was collected under a nitrogen atmosphere and vacuum dried for 2 hr, to yield 13.11 g (92.1%). The salt was recrystallized from absolute ethanol-isopropyl ether to give 8.87 g of a white solid. The material was recrystallized from ethanol, and vacuum dried for 12 hr at 70° C., m.p. 257°-258° C.

reactant | 3-fluorobenzoyl chloride | 0.050 mole, 7.93 g | FC=1C=C(C(=O)Cl)C=CC1 | C7H4ClFO
reactant | 3-aminoquinuclidine | 0.050 mole, 6.3 g | NC1CN2CCC1CC2 | C7H14N2
solvent | ether | 30 ml | CCOCC | C4H10O
solvent | ether | 100 ml | CCOCC | C4H10O
product | N-(1-Azabicyclo[2.2.2]oct-3-yl)-3-fluorobenzamide, Monohydrochloride | 8.87 g | Cl.N12CC(C(CC1)CC2)NC(C2=CC(=CC=C2)F)=O | InChI=1S/C14H17FN2O.ClH/c15-12-3-1-2-11(8-12)14(18)16-13-9-17-6-4-10(13)5-7-17;/h1-3,8,10,13H,4-7,9H2,(H,16,18);1H
